US06437177B1
Step 5 Preparation of 2-Hydroxy-2-[(4-methoxybenzenesulfonyl)methyl]-3-(4-phenylbenzenesulfonyl)-propionic Acid.
To a solution of 2-hydroxy-2-[(4-methoxybenzenesulfonyl)methyl]-3-(4-phenylbenzenesulfonyl)propionic acid, ethyl ester (0.70 g, 1.3 mmol) in 25 mL of methanol is added sodium hydroxide (25 mmol in 10 mL of water). The reaction mixture is stirred at ambient temperature for 1 hour, and then quenched by the addition of 25 mL of 1N HCl. Methanol is removed under reduced pressure, and the product is extracted with several portions of ethyl acetate. The organic phase is washed with brine, dried over magnesium sulfate, filtered, and concentrated to afford the title compound as a white solid.

reactant | 2-hydroxy-2-[(4-methoxybenzenesulfonyl)methyl]-3-(4-phenylbenzenesulfonyl)propionic acid, ethyl ester | 1.3 mmol, 0.70 g | OC(C(=O)OCC)(CS(=O)(=O)C1=CC=C(C=C1)C1=CC=CC=C1)CS(=O)(=O)C1=CC=C(C=C1)OC | C25H26O8S2
reactant | sodium hydroxide | 25 mmol, 10 mL | [OH-].[Na+]
solvent | methanol | 25 mL | CO | CH4O
product | 2-Hydroxy-2-[(4-methoxybenzenesulfonyl)methyl]-3-(4-phenylbenzenesulfonyl)-propionic Acid | OC(C(=O)O)(CS(=O)(=O)C1=CC=C(C=C1)C1=CC=CC=C1)CS(=O)(=O)C1=CC=C(C=C1)OC | C23H22O8S2
